US09163008B2
To a mixture of 2,6-dichloropyrimidine-4-carboxamide (0.384 g, 2.00 mmol) in acetonitrile (10 mL) was added morpholin-3-ylmethanol hydrochloride (0.310 g, 2.02 mmol) and iPr2NEt (0.77 mL, 4.4 mmol). The mixture was heated at 50° C. overnight then concentrated in vacuo. The residue was chromatographed over silica gel with 25-75% acetone in hexanes. The product fractions were evaporated in vacuo to yield 2-chloro-6-(3-(hydroxymethyl)morpholino)pyrimidine-4-carboxamide as a pale tan solid (0.501 g, 1.84 mmol, 92% yield). LC/MS: m/z=273.2 [M+H]+.

reactant | 2,6-dichloropyrimidine-4-carboxamide | 2.00 mmol, 0.384 g | ClC1=NC(=CC(=N1)C(=O)N)Cl | C5H3Cl2N3O
reactant | morpholin-3-ylmethanol hydrochloride | 2.02 mmol, 0.310 g | Cl.N1C(COCC1)CO
reactant | iPr2NEt | 4.4 mmol, 0.77 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-chloro-6-(3-(hydroxymethyl)morpholino)pyrimidine-4-carboxamide | 1.84 mmol, 0.501 g, 92% yield | ClC1=NC(=CC(=N1)C(=O)N)N1C(COCC1)CO | C10H13ClN4O3
